

*$
* THIS FILE CONTAINS A PRE-RAD MODEL AT 75 C.
* PARAMETER MODEL EXTRACTED FROM MEASURED DATA UTILIZING AN SCR
* MODEL DEVELOPED BY AVANT, LEE, AND CHEN. FURTHER INFORMATION ON THE MODEL
* CAN BE FOUND IN THE IEEE POWER ELECTRONICS CONFERENCE PAPER (JULY 1981) THAT
* THEY PRESENTED. TITLE OF PAPER IS : "A PRACTICAL SCR MODEL FOR COMPUTER AIDED
* ANALYSIS OF AC RESONANT CHARGING CIRCUITS".

*
* THIS MODEL CORRECTLY SIMULATES THE MEASURED PARAMETERS OF
* TON, DV/DT, IH, IGT, RON, AND VT. THIS MODEL IS TO BE USED ONLY AT THE
* TEMP. FOR WHICH IT WAS EXTRACTED.
*
* A TURN-OFF TIME OF 15US WAS USED.
*

*
* THE FOLLOWING IS A PRE-RAD MODEL AT 75 C :
*
*                    ANODE
*                    |   GATE
*                    |   |    CATHODE
*                    |   |    |
.SUBCKT 2N1595/75C   4   1   10
R 1 10 3200
DFOR 1 3 DMOD1
Q1 1 3 4 QMOD1
Q2 3 1 10 QMOD2
.MODEL DMOD1 D(
+         IS = 1E-14
+         RS = 0
+          N = 1
+         TT = 0
+        CJO = 0
+         VJ = 1
+          M = .5
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 288.5
+        IBV = .001
+ )
.MODEL QMOD1 PNP(
+         IS = 5.9E-15
+         BF = .19
+         NF = 1
+        VAF = 9.9999E+13
+        IKF = 9.9999E+13
+        ISE = 0
+         NE = 1.5
+         BR = .19
+         NR = 1
+        VAR = 9.9999E+13
+        IKR = 9.9999E+13
+        ISC = 0
+         NC = 2
+         RB = 0
+        IRB = 9.9999E+13
+        RBM = 0
+         RE = 0.0958
+         RC = 0
+        CJE = 0
+        VJE = .75
+        MJE = .33
+         TF = 2.8E-6
+        XTF = 0
+        VTF = 9.9999E+13
+        ITF = 0
+        PTF = 0
+        CJC = 0
+        VJC = .75
+        MJC = .33
+       XCJC = 1
+         TR = 135E-6
+        CJS = 0
+        VJS = .75
+        MJS = 0
+        XTB = 0
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+ )
.MODEL QMOD2 NPN(
+         IS = 5.9E-15
+         BF = 9
+         NF = 1
+        VAF = 9.9999E+13
+        IKF = 9.9999E+13
+        ISE = 0
+         NE = 1.5
+         BR = 1
+         NR = 1
+        VAR = 9.9999E+13
+        IKR = 9.9999E+13
+        ISC = 0
+         NC = 2
+         RB = 0
+        IRB = 9.9999E+13
+        RBM = 0
+         RE = 0
+         RC = 0
+        CJE = 0
+        VJE = .75
+        MJE = .33
+         TF = 0
+        XTF = 0
+        VTF = 9.9999E+13
+        ITF = 0
+        PTF = 0
+        CJC = 34E-12
+        VJC = .75
+        MJC = .33
+       XCJC = 1
+         TR = 0
+        CJS = 0
+        VJS = .75
+        MJS = 0
+        XTB = 0
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+ )
.ENDS 2N1595/75C
